Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm
 
Attending: ___.
 
Chief Complaint:
neuropathy
 
Major Surgical or Invasive Procedure:
pheresis catheter placement

 
History of Present Illness:
___ admitted from home to undergo plasmapheresis for her severe 
idiopathic axonal senorimotor polyneuropathy.  Last pheresis was 
in ___.  She had recent progressive ataxia related to her 
neuropathy and last saw her neurologist, Dr. ___ in ___, who advised her treatment with pheresis.  Other than some 
increased ataxia and distal extremity discomfort from her 
neuropathy, she has not had recent health changes and as such 
13pt ROS is negative without recent pulmonary, cardiac, new 
abdominal symptoms beyond chronic constipation, new joint pains 
other than chronic knee pain, rashes, fevers, weight loss, mood 
changes.

P=
 
Past Medical History:
From ___ - confirmed with patient

PAST MEDICAL HISTORY:  
- Severe idiopathic axonal sensorimotor polyneuropathy  
* initial sx in ___ (weakness and sensory loss in legs -->  
abdomen --> arms)  
* responsive to plasmapheresis (last sessions ___, 
___  
* prior evaluation (per Dr. ___ dated ___:  
- Sural nerve biopsy: marked loss of large and small myelinated  

axons  
- Vitamin B12 deficiency  

*Past D/c Summary also lists DM2 but patient not on therapy for 
DM2
- HTN  
- DM (type II)  
- GERD  
- Depression  
- Diverticulosis  
.  
PAST SURGICAL HISTORY:  
- c-section x 2  
- hysterectomy for leiomyomata  
- left breast lumpectomy  
- bilateral knee replacements  
- portacath (since removed)  
- surgery related to recent abdominal hematoma related to sc  
heparin  
 
Social History:
___
Family History:
from OMR
- negative for neurological conditions
- positive for DM (mother, brother), malignancy (mother - liver, 
cervical, colon; father - lung), CAD (mother)

 
Physical Exam:
97 142/69 65
pleasant aox3 obese female lying in bed
clear bs
regular s1 and s2
soft abd
she has bilateral spontaneous movement of both her feet
she has impaired position sense of her fingers and toes and her 
grip is weaker on L than right, dimished sensation to light 
touch to both feet
no rash
no pitting edema to either ankle

Exam on discharge:
VS:98.3 BP: 93/47 HR: 52 R: 18 O2: 100% RA
Well appearing young woman, laying in bed in NAD.
HEENT: MMM. No cervical lymphadenopathy. No tonsillar erythema 
or
exudate. Mild scleral icterus.
Lungs: Clear B/L on auscultation
Abd: Soft, Slightly tender on palpation of epigastrium, RUQ. No
rebound or guarding
EXT: No edema, no rashes

 
Pertinent Results:
___ 09:30PM BLOOD WBC-6.7 RBC-4.40 Hgb-13.6 Hct-41.1 MCV-94 
MCH-31.0 MCHC-33.2 RDW-13.8 Plt ___
___ 09:30PM BLOOD Glucose-119* UreaN-12 Creat-1.0 Na-140 
K-3.9 Cl-103 HCO3-30 AnGap-11
___ 09:30PM BLOOD CK(CPK)-100
___ 09:30PM BLOOD Calcium-9.6
 
Brief Hospital Course:
This is a ___ woman with a severe, idiopathic 
large-fiber polyneuropathy or predominantly sensory neuronopathy 
now admitted for plasmapheresis treatment due to progressive 
ataxia related to her polyneuropathy. 

#Polyneuropathy
The patient was admitted for plasmapheresis  She had pheresis 
catheter placed on ___.  She received 5 treatments of 
plasmapheresis.  She remained on telemetry given her past h/o 
coronary vasospasm around the time of past plasmapheresis.  
Telemetry was unremarkable and she had no report of chest pain 
or dyspnea during this admission.   She tolerated the procedures 
well and was discharged home following her ___ treatment. She 
will follow up with her neurologist, Dr. ___ as an 
outpatient.

#Hypertension
Continued amlodipine

#Hyperlipidemia
Continued Statin, ASA

#Depression/Anxiety
Continued lorazepam/sertraline
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. bisacodyl 5 mg Oral once a day as needed for constipation 
4. BuPROPion 100 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Gabapentin 100 mg PO BID 
7. Lactulose 15 mL PO TID 
8. Lorazepam 0.5 mg PO Q6H:PRN as needed 
9. Multivitamins 1 TAB PO DAILY 
10. Polyethylene Glycol 17 g PO BID 
11. Sertraline 100 mg PO DAILY 
12. Simvastatin 20 mg PO DAILY 
13. TraMADOL (Ultram) 50 mg PO DAILY 
14. Amlodipine 5 mg PO DAILY 
15. Cyanocobalamin 0 mcg IM/SC MONTHLY 
16. Glycerin Supps ___AILY:PRN as needed 
17. Nitroglycerin SL 0.4 mg SL ASDIR 
18. psyllium seed (with dextrose) 1 (one) Powder  Oral Daily 
19. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. bisacodyl 5 mg Oral once a day as needed for constipation 
5. BuPROPion 100 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Glycerin Supps ___AILY:PRN as needed 
9. Lactulose 15 mL PO TID 
10. Lorazepam 0.5 mg PO Q6H:PRN as needed 
11. Multivitamins 1 TAB PO DAILY 
12. Nitroglycerin SL 0.4 mg SL ASDIR 
13. Polyethylene Glycol 17 g PO BID 
14. Sertraline 100 mg PO DAILY 
15. Simvastatin 20 mg PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Cyanocobalamin 0 mcg IM/SC MONTHLY 
18. psyllium seed (with dextrose) 1 (one) Powder  Oral Daily 
19. TraMADOL (Ultram) 50 mg PO DAILY 
20. Miconazole Powder 2% 1 Appl TP BID 

 
Discharge Disposition:
Home
 
Facility:
___
 
Discharge Diagnosis:
Idiopathic neuropathy refractory to treatment
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
It was a pleasure taking care of you during your recent 
admission to ___. You were admitted for plasmapheresis as 
treatment for your symptomatic neuropathy. You had 5 treatments 
while hospitalized which you tolerated well. You will need to 
follow up with your neurologist, Dr. ___ in ___ as 
scheduled.

 
Followup Instructions:
___